US07005538B1
To a solution of N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]-4-nitrobenzenesulphonamide (0.25 mmol), prepared as described in Example 33, in ethanol (95%, 25 mL), sodium dithionite (1.26 mmol) was added and the reaction mixture stirred over night at 70° C. The reaction mixture was allowed to reach room temperature and then evaporated in vacuo. The residue was diluted with ethyl acetate and washed with an aqueous solution of sodium hydrogencarbonate (saturated). The organic phase was dried over magnesium sulphate and concentrated in vacuo. The residue was purified on column (silica gel, chloroform/methanol 17:3) and further purified by semi-preparative HPLC (column and eluents as described for Examples 27, 28 an 30) to give 30 mg (20%) of 4-amino-N-[3,5-dibromo-4-(3-bromobenzyloxy)-benzoyl]benzenesulphonamide.

reactant | N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]-4-nitrobenzenesulphonamide | 0.25 mmol | BrC=1C=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C(C1OCC1=CC(=CC=C1)Br)Br | C20H13Br3N2O6S
reactant | sodium dithionite | 1.26 mmol | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-amino-N-[3,5-dibromo-4-(3-bromobenzyloxy)-benzoyl]benzenesulphonamide | 30 mg, 20% | NC1=CC=C(C=C1)S(=O)(=O)NC(C1=CC(=C(C(=C1)Br)OCC1=CC(=CC=C1)Br)Br)=O | C20H15Br3N2O4S
